US07745438B2
(2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-acetylamino-3-(3-propyl-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add propyl zinc bromide (2.311 g) in tetrahydrofuran and (1,1′-bis(diphenylphosphino)ferrocene) palladium(II) chloride (0.015 g) to a solution of (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.07 g, 0.122 mmol) in tetrahydrofuran (1.2 mL) in a sealed tube flushed with nitrogen. Heat the tube at 65° C. for 6.5 hours. Add saturated aqueous ammonium chloride (5 mL). Extract the reaction mixture with ethyl acetate (2×30 mL). Combine the organic phases and wash with saturated aqueous sodium chloride (1×15 mL), dry over magnesium sulfate and concentrate under reduced pressure. Subject residue to silica gel chromatography, eluting with hexanes containing 15-45% ethyl acetate, to provide 0.039 g (60%) of the title compound as an off-white foam.

reactant | propyl zinc bromide | 2.311 g | [Br-].C(CC)[Zn+]
reactant | (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.122 mmol, 0.07 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Br)NC(C)=O)O)OCC(C)(C)C)C | C26H40BrFN2O6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene) palladium(II) chloride | 0.015 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-acetylamino-3-(3-propyl-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.039 g, 60% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)CCC)NC(C)=O)O)OCC(C)(C)C)C | C29H47FN2O6
